US07074800B1
A mixture of 7-benzyloxy-4-chloro-6-methoxyquinazoline (3 g, 10 mmol), (prepared as described for the starting material in Example 1), 5-hydroxyindole (1.46 g, 11 mmol) in DMF (30 ml) containing potassium carbonate (2.75 g, 20 mmol) was heated at 95° C. for 2 hours. After cooling the mixture was poured onto water (100 ml). The precipitate was filtered, washed with water and dried under vacuum at 50° C. over phosphorus pentoxide. The solid was triturated with ether, filtered, washed with ether and dried under vacuum to give 7-benzyloxy-4-(indol-5-yloxy)-6-methoxyquinazoline (3.5 g, 88%).

reactant | 7-benzyloxy-4-chloro-6-methoxyquinazoline | 10 mmol, 3 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)Cl)OC | C16H13ClN2O2
reactant | 5-hydroxyindole | 11 mmol, 1.46 g | OC=1C=C2C=CNC2=CC1 | C8H7NO
reactant | potassium carbonate | 20 mmol, 2.75 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 7-benzyloxy-4-(indol-5-yloxy)-6-methoxyquinazoline | 3.5 g, 88% | C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)OC=1C=C2C=CNC2=CC1)OC | C24H19N3O3
